US05037834
2-Amino-4-[(2-N-phthalimido)ethyl]thiazole hydrochloride
1-Bromo-4-N-phthalimido-2-butanone (50.0 g, 0.169 mol) and thiourea (25.71 g, 0.338 mol) were mixed with n-propanol (1000 ml) and concentrated hydrochloric acid (100 ml), and the reaction mixture was heated to reflux for 1.5 hour. After cooling, the precipitate was filtered and washed with n-propanol and ether. After air drying, the title product was obtained as a fluffy white solid (37.51 g, 0.121 mol, 72% yield), m.p. 230°-240° (decomp.).

reactant | 1-Bromo-4-N-phthalimido-2-butanone | 0.169 mol, 50.0 g | C1=CC=C2C(=C1)C(=O)N(C2=O)CCC(=O)CBr | C12H10BrNO3
reactant | thiourea | 0.338 mol, 25.71 g | NC(=S)N | CH4N2S
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | n-propanol | 1000 ml | C(CC)O | C3H8O
product | 2-Amino-4-[(2-N-phthalimido)ethyl]thiazole hydrochloride | C1=CC=C2C(=C1)C(=O)N(C2=O)CCC3=CSC(=N3)N.Cl | InChI=1S/C13H11N3O2S.ClH/c14-13-15-8(7-19-13)5-6-16-11(17)9-3-1-2-4-10(9)12(16)18;/h1-4,7H,5-6H2,(H2,14,15);1H
